US09422281B2
(S)-1-(2-methyl-6-(1-(oxetan-3-yl)-1H-pyrazol-4-yl)-3,4-dihydroquinoxaline-1(2H)-yl)ethanone was prepared from (S)-1-(6-bromo-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)ethanone and 1-(oxetan-3-yl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole according to the procedure outlined above for (S)-1-(6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)ethanone. MS (ESI, pos. ion) m/z 313 [M+1]+.

reactant | (S)-1-(6-bromo-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)ethanone | BrC=1C=C2NC[C@@H](N(C2=CC1)C(C)=O)C | C11H13BrN2O
reactant | 1-(oxetan-3-yl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | O1CC(C1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C12H19BN2O3
reactant | (S)-1-(6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)ethanone | C1(CC1)N1N=CC(=C1)C=1C=C2NC[C@@H](N(C2=CC1)C(C)=O)C | C17H20N4O
product | (S)-1-(2-methyl-6-(1-(oxetan-3-yl)-1H-pyrazol-4-yl)-3,4-dihydroquinoxaline-1(2H)-yl)ethanone | C[C@@H]1N(C2=CC=C(C=C2NC1)C=1C=NN(C1)C1COC1)C(C)=O | C17H20N4O2
